US07307086B2
3-(Trifluoromethyl)-5,6,7,8-tetrahydro-1,6-naphthyridine
To a yellow suspension of 3-(trifluoromethyl)-5,8-dihydro-1,6-naphthyridin-7(6H)-one (2.08 g, 9.62 mmol) in THF (14 mL) was added slowly a 1.0 M solution of borane in THF (48.5 mL) and the resulting clear yellow solution was stirred at room temperature under N2 overnight. After overnight reaction, two peaks were detected. The major peak (>80%) was the borane complex, the minor peak was the desired product peak (<15%). In order to breakdown the borane complex, the cloudy reaction mixture was treated by dropwise addition of 6 M HCl (12 mL). Large amounts of bubbles and heat were generated. The resulting slightly cloudy yellow solution was stirred at room temperature overnight. After evaporation of solvents, the yellow crude product was dissolved in 25 mL of DMSO and slowly treated with TFA (4 mL) to get a yellow brown clear solution, which was purified by prep-HPLC to provide approx. 2.60 g (63%) of desired light yellow sticky product as di-TFA salt. LC-MS 203.0 (M+H)+.

reactant | 3-(trifluoromethyl)-5,8-dihydro-1,6-naphthyridin-7(6H)-one | 9.62 mmol, 2.08 g | FC(C=1C=NC=2CC(NCC2C1)=O)(F)F | C9H7F3N2O
reactant | borane | B | BH3
solvent | THF | 14 mL | C1CCOC1 | C4H8O
solvent | THF | 48.5 mL | C1CCOC1 | C4H8O
product | 3-(Trifluoromethyl)-5,6,7,8-tetrahydro-1,6-naphthyridine | FC(C=1C=NC=2CCNCC2C1)(F)F | C9H9F3N2
